US06528525B1
2′-Hydroxybiphenyl-4-carboxylic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 2′-hydroxybiphenyl-4-carboxylate (498 mg) and aqueous sodium hydroxide (1N, 4.81 ml) and the reaction mixture was treated to afford the title compound (434 mg) as colorless crystals.

reactant | methyl 2′-hydroxybiphenyl-4-carboxylate | 498 mg | OC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)OC | C14H12O3
reactant | sodium hydroxide | 1N, 4.81 ml | [OH-].[Na+]
product | 2′-Hydroxybiphenyl-4-carboxylic acid | 434 mg | OC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
